US08808703B2
Step 1: (5)-tert-butyl 1-hydroxypropan-2-ylcarbamate
To a solution of (S)-2-aminopropan-1-ol (1 eq) in THF (0.3 M) at room temperature was added di-tert-butyl carbonate (1 eq) and triethylamine (1 eq). The reaction was stirred at room temperature for 3 hours. The reaction mixture was concentrated en vaccuo; and the residue was diluted in ethyl acetate. The organic solution was washed with water (2×), 1:1 saturated aqueous NH4Cl, water and brine, dried over anhydrous MgSO4, and concentrated en vaccuo. The material was carried onto the next step without further purification.

reactant | (S)-2-aminopropan-1-ol | 1 eq | N[C@H](CO)C | C3H9NO
reactant | di-tert-butyl carbonate | 1 eq | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | triethylamine | 1 eq | C(C)N(CC)CC | C6H15N
solvent | THF | 0.3 M | C1CCOC1 | C4H8O
product | (5)-tert-butyl 1-hydroxypropan-2-ylcarbamate | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
